US04596816
A solution of 4-(4-chlorophenyl)-2,5-dimethyloxazole (6.21 g), N-bromosuccinimide (5.34 g) and azobisisobutyronitrile (0.25 g) in carbon tetrachloride (90 ml) was refluxed with stirring for 15 minutes, then washed with water, saturated aqueous sodium hydrogen carbonate and water in that order, and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was crystallized from cold ethanol to give 5-bromomethyl-4-(4-chlorophenyl)-2-methyloxazole, yield 6.73 g (78.4%). Recrystallization from ethanol gave needles, melting at 75°-76° C.

reactant | 4-(4-chlorophenyl)-2,5-dimethyloxazole | 6.21 g | ClC1=CC=C(C=C1)C=1N=C(OC1C)C | C11H10ClNO
reactant | N-bromosuccinimide | 5.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.25 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 90 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-4-(4-chlorophenyl)-2-methyloxazole | BrCC1=C(N=C(O1)C)C1=CC=C(C=C1)Cl | C11H9BrClNO
